US04916149
80 ml of hydrazine hydrate were poured into the suspension of 172.5 g of methyl 4-chloro-3-nitrobenzoate in 1600 ml of abs. ethanol under stirring, then the reaction mixture was refluxed while stirring for 45 minutes. The starting material dissolved and the product started to precipitate. After cooling down, the product was filtered by suction, washed with abs. ethanol and water successively until it became free from chloride ion. Thus, 4-methoxycarbonyl-2-nitrophenylhydrazine (143.6 g, 85%) was obtained as yellow crystals m.p.: 169°-171° C.

reactant | hydrazine hydrate | 80 ml | O.NN
reactant | methyl 4-chloro-3-nitrobenzoate | 172.5 g | ClC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6ClNO4
solvent | ethanol | C(C)O | C2H6O
product | 4-methoxycarbonyl-2-nitrophenylhydrazine | 143.6 g, 85% | COC(=O)C1=CC(=C(C=C1)NN)[N+](=O)[O-] | C8H9N3O4
